US08278331B2
A mixture of 4-aminophenol (2.6 g, 24 mmol) and NaH (1.1 g, 28 mmol) in dry DMF (50 ml) was stirred at RT for 30 min. 4-Chloro-pyridine-2-carboxylic acid t-butyl ester (5.0 g, 24 mmol) was added and the resulting mixture was stirred in a sealed tube at 80° C. for 12 h. The reaction mixture was concentrated in vacuo and was purified on silica gel to give 5-(4-amino-phenoxy)-pyridine-2-carboxylic acid t-butyl ester as a yellow solid (2.4 g, 35% yield). 1H NMR (300 MHz, DMSO-d6): δ 8.48 (d, J=5.7 Hz, 1H), 7.33 (d, J=1.8 Hz, 1H), 7.03 (m, 1H), 6.84 (d, J=8.4 Hz, 1H), 6.62 (d, J=8.4 Hz, 1H), 5.18 (s, 2H), 1.50 (s, 9H); MS (ESI) m/z: 287.2 (M+H+).

reactant | 4-aminophenol | 24 mmol, 2.6 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | NaH | 28 mmol, 1.1 g | [H-].[Na+]
reactant | 4-Chloro-pyridine-2-carboxylic acid t-butyl ester | 24 mmol, 5.0 g | C(C)(C)(C)OC(=O)C1=NC=CC(=C1)Cl | C10H12ClNO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-(4-amino-phenoxy)-pyridine-2-carboxylic acid t-butyl ester | 2.4 g, 35% yield | C(C)(C)(C)OC(=O)C1=NC=C(C=C1)OC1=CC=C(C=C1)N | C16H18N2O3
